US08877782B2
N-(4-Cyano-thiazol-2-ylmethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.64 mmol) was converted using 2-aminomethyl-thiazole-4-carbonitrile instead of aminomethyl-isoxazolidin-3-one to the title compound (SiO2, heptane:ethyl acetate=90:10 to 40:60, 188 mg, 68%) which was obtained as a white solid. MS: m/e=432.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.64 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-aminomethyl-thiazole-4-carbonitrile | NCC=1SC=C(N1)C#N | C5H5N3S
product | N-(4-Cyano-thiazol-2-ylmethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 188 mg, 68% | C(#N)C=1N=C(SC1)CNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C22H17N5O3S
